US09078888B2
Synthesis of 6-methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one
6-Methoxyisoquinoline-1-ol (2.00 g, 11.42 mmol), 4-iodoanisole (4.01 g, 17.13 mmol), copper (1) iodide (0.44 g, 2.28 mmol). L-proline (0.53 g, 4.57 mmol) and anhydrous potassium carbonate (3.16 g, 22.84 mmol) were placed in a dry 250 mL three-necked round-bottomed flask fitted with a stirring bar and reflux condenser. The reaction flask was vacuumed and refilled with dry argon. 50 mL of anhydrous methyl sulfoxide was added via syringe. The reaction mixture was stirred and heated to 130° C. for 20 hours. 50 mL of water was added to quench the reaction, and yellow solid precipitated out. The pale-yellow solid was filtered, washed with water (2×20 mL) and dried in air. This pale-yellow solid was purified by flash column chromatography (silica gel, ethyl acetate) to give a pale-yellow solid product, 2.90 g, 90.3% yield. MS: 282.2 [M+H]+. 1H NMR (DMSO-d6, 300 MHz): δ 8.14 (d, 1H, J=8.7 Hz), 7.39-7.34 (m, 3H), 7.19 (d, 1H, J=2.4 Hz), 7.13-7.03 (m, 3H), 6.62 (dd, 1H, J=7.5 Hz), 3.89 (s, 3H), 3.81 (s, 3H).

reactant | 6-Methoxyisoquinoline-1-ol | 11.42 mmol, 2.00 g | COC=1C=C2C=CN=C(C2=CC1)O | C10H9NO2
reactant | 4-iodoanisole | 17.13 mmol, 4.01 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | L-proline | 4.57 mmol, 0.53 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 22.84 mmol, 3.16 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper (1) iodide | 2.28 mmol, 0.44 g | [Cu]I
solvent | water | 50 mL | O | H2O
solvent | methyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 6-methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one | 90.3% yield | COC=1C=C2C=CN(C(C2=CC1)=O)C1=CC=C(C=C1)OC | C17H15NO3
